US08278230B2
At room temp., 520 mg (0.488 mmol) of 10% palladium on barium sulphate and 190 mg (1.47 mmol) of quinoline were added to a stirred solution of 7.70 g (32.3 mmol) of this (9Z)-2,7-dimethyltridec-9-en-3-yne-2,5-diol in 170 mL of ethanol. The flask was evacuated and flushed with nitrogen three times, and three times evacuated and flushed with hydrogen. The resulting reaction mixture was then stirred for 1.5 h under an atmosphere of hydrogen at ambient pressure and temperature, prior to evacuation and ventilation with nitrogen. The reaction flask was opened to air, and the catalyst filtered off by suction over a pad of Celite. After removal of the solvent in a rotary evaporator under reduced pressure, the resulting crude product (8.07 g) was purified by flash chromatography (100 g of silica gel, pentane/ether, 1:1, Rf=0.28) to afford 4.28 g (55%) of (3Z,9Z)-2,7-dimethyltrideca-3,9-diene-2,5-diol as a colorless oil.

reactant | quinoline | 1.47 mmol, 190 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | (9Z)-2,7-dimethyltridec-9-en-3-yne-2,5-diol | 32.3 mmol, 7.70 g | CC(C)(C#CC(CC(C\C=C/CCC)C)O)O | C15H26O2
solvent | ethanol | 170 mL | C(C)O | C2H6O
catalyst | palladium | 0.488 mmol, 520 mg | [Pd] | Pd
product | (3Z,9Z)-2,7-dimethyltrideca-3,9-diene-2,5-diol | 4.28 g, 55% | CC(C)(\C=C/C(CC(C\C=C/CCC)C)O)O | C15H28O2
